Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M w/relapsed AML s/p reinduction w/ MEC/lenalidomide per
protocol ___, now s/p allogeneic MRD stem cell transplant,
(day +62 on admission), non-neutropenic, now admitted w/ 1 day 
of
fever, nasal congestion, and diarrhea.

Patient overall had been doing well until two days prior to
admission when he developed fatigue, mild nasal congestion, and
dry cough. He believes he may have caught something from his
daughter, who has had a URI. His symptoms were initially mild,
and he was seen in outpatient ___ clinic on ___ for a
previously scheduled follow-up. He subsequently developed
worsening fatigue, and on evening prior to admission developed
fever to 100.8. Overnight at home he also developed loose 
stools;
he reports ___ stools that were loose (not watery), non-bloody,
with ~4 BM total in past 24H. Consistently of stools has been
improving per patient. He denies subjective fevers (even when
temp elevated), chills, night sweats, light-headedness,
dizziness, vision changes, neck stiffness, sore throat, mouth or
neck pain, SOB, productive cough, abdominal pain, nausea,
vomiting, myalgias, rashes or new skin changes, swelling, pain 
or
other changes at his TLC site, or any bleeding. Temperatures
remained elevated with Tmax 101.8, prompting him to call his
oncologist.

He initially presented to ___ clinic, where he was 
evaluated
by Dr. ___ recommended admission for infectious work-up,
IV fluids, and monitoring to assess need for antibiotics. 

On arrival to the floor, patient reports continued fatigue and
mild nasal congestion. He reports that cough has resolved. He
also reports a mild HA this morning, resolved spontaneously 
prior
to admission. He denies any other current symptoms, full ROS
obtained as above.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
TREATMENT COURSE:
-------------------
___ INITIAL BMBX  AML
___ Consented to  protocol ___  INDUCTION DAUNOrubicin  (90 mg/m2)  Cytarabine  (100
mg/m2)  (RHP: +NPM1, +IDH2,+ RAD21)
___  D+14 BMBx ablated, 
___  D+26 remission, NPM1 negative
___ C1D1 HIDAC
___ admitted for fever
___ CT showed perianal abscess, drained, improved with
antibiotics
___ - C2D1 HIDAC, complicated by fevers and rash after 4 
of 6 doses attributed to possible cytarabine syndrome, all
resolved with higher dexamethasone premedication. also received
neulasta on D9
___ - C3D1 HIDAC, complicated by neutropenic fever, 
empiric antibiotics without complications or infectious source
___ - taken off of active study protocol (control arm) due
to patient preference to avoid frequent visits and tests;
consented to be followed by the study for survival/outcome data
___ - initiation of therapy for relapsed AML on trial
___
----lenalidomide 50 mg D1-10
----MEC D4-8
___ - admitted for alloHSC transplant
- Flu/Bu ablation chemotherapy ___
- Allogeneic stem cell transplant ___
- Discharged ___ - Bone marrow biopsy w/no morphologic evidence of AML,
negative NPM1 and myeloid sequencing panels
---- COMPLICATIONS: neutropenic fever, c.diff colitis, SCoN
bacteremia, ___ abscess

PAST MEDICAL HISTORY: 
AML (onc history as above)
___ abscess
C. difficile

 
Social History:
___
Family History:
Mother had lung cancer. Father had some type of metastatic 
cancer
extensively involving the bones. No history of any hematologic
disorders including leukemia or lymphoma. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
==========================
___ 1458 Temp: 99.0 PO BP: 110/97 HR: 86 RR: 20 O2 sat: 98%
O2 delivery: RA 
GENERAL: ___ adult man in NAD
HEENT: NCAT, sclerae anicteric, normal conjunctivae, PERRL, 
EOMI,
oropharynx clear without evident ulceration, erythema, exudates,
or bleeding. S/P extraction of two teeth #27, #28
LYMPHATICS: No appreciable lymphadenopathy
PULMONARY: CTAB, no increased work of breathing
HEART: RRR, normal S1/S2, no m/r/g
ABDOMEN:  Soft, nontender, nondistended, normoactive BS, no
hepatosplenomegaly
EXTREMITIES: Warm, DP pulses 2+ bilaterally, no edema
SKIN: No evident petechiae, ecchymosis, or rashes
NEURO: A&Ox3, CNII-XII intact, strength ___ in upper and lower
extremities bilaterally, normal sensation throughout
LINES: Tunneled RIJ in place without erythema or tenderness

DISCHARGE PHYSICAL EXAM:
===========================
___ 0524 Temp: 98.4 PO BP: 117/81 HR: 77 RR: 18 O2 sat: 
100%
O2 delivery: RA 
GENERAL: ___ adult man in NAD
HEENT: NCAT, sclerae anicteric, oropharynx clear without evident
ulceration, erythema, exudates, or bleeding
PULMONARY: CTAB, no increased work of breathing
HEART: RRR, normal S1/S2, no m/r/g
ABDOMEN:  Soft, nontender, nondistended, normoactive BS, no
hepatosplenomegaly
EXTREMITIES: Warm, DP pulses 2+ bilaterally, no edema
SKIN: No evident petechiae, ecchymosis, or rashes
NEURO: A&Ox3, CN grossly intact
 
Pertinent Results:
ADMISSION LABS
================
___ 09:30AM BLOOD WBC-8.8 RBC-3.66* Hgb-12.3* Hct-37.2* 
MCV-102* MCH-33.6* MCHC-33.1 RDW-15.6* RDWSD-58.7* Plt Ct-97*
___ 09:30AM BLOOD Neuts-26.7* Lymphs-59.1* Monos-11.5 
Eos-2.0 Baso-0.5 Im ___ AbsNeut-2.35 AbsLymp-5.21* 
AbsMono-1.01* AbsEos-0.18 AbsBaso-0.04
___ 09:30AM BLOOD Plt Ct-97*
___ 09:30AM BLOOD UreaN-13 Creat-1.2 Na-137 K-4.4 Cl-104 
HCO3-23 AnGap-10
___ 09:30AM BLOOD ALT-17 AST-25 LD(LDH)-178 AlkPhos-65 
TotBili-0.3
___ 09:30AM BLOOD TotProt-6.5 Albumin-4.1 Globuln-2.4 
Calcium-9.4 Phos-3.2 Mg-1.4*
___ 09:30AM BLOOD tacroFK-6.1
___ 09:30AM BLOOD CMV VL-DETECTED, 
___ 06:31PM URINE Color-Yellow Appear-Clear Sp ___
___ 06:31PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 06:31PM URINE RBC-0 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 04:01PM OTHER BODY FLUID FluAPCR-POSITIVE* 
FluBPCR-NEGATIVE

DISCHARGE LABS
=================
___ 05:30AM BLOOD WBC-7.1 RBC-3.63* Hgb-12.0* Hct-35.6* 
MCV-98 MCH-33.1* MCHC-33.7 RDW-15.1 RDWSD-54.4* Plt Ct-84*
___ 05:30AM BLOOD Neuts-35.0 ___ Monos-9.6 Eos-4.8 
Baso-0.3 Im ___ AbsNeut-2.48 AbsLymp-3.54 AbsMono-0.68 
AbsEos-0.34 AbsBaso-0.02
___ 05:30AM BLOOD Glucose-87 UreaN-14 Creat-0.9 Na-139 
K-4.2 Cl-106 HCO3-18* AnGap-15
___ 05:30AM BLOOD ALT-22 AST-29 AlkPhos-53 TotBili-0.2
___ 05:30AM BLOOD Calcium-9.0 Phos-4.2 Mg-1.5*
___ 09:30AM BLOOD tacroFK-5.9

MICROBIOLOGY
==================
___ 04:01PM OTHER BODY FLUID FluAPCR-POSITIVE* 
FluBPCR-NEGATIVE
                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      Reported to and read back by ___ AT 2322 ON 
___. 
      POSITIVE.              (Reference Range-Negative). 
         The C. difficile PCR is highly sensitive for toxigenic 
strains of
         C. difficile and detects both C. difficile infection 
(CDI) and
         asymptomatic carriage. Therefore, positive C. diff PCR 
tests
         trigger reflex C. difficile toxin testing, which is 
highly
         specific for CDI. 

   C. difficile Toxin antigen assay (Final ___: 
      POSITIVE.              (Reference Range-Negative).  
PERFORMED BY EIA. 
         This result indicates a high likelihood of C. difficile 
infection
         (CDI). 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 

Test                          Result              Reference 
Range/Units
S. PNEUMONIAE ANTIGENS,       Not Detected        Not Detected
URINE   

IMAGING
==========
CXR ___
No acute intrathoracic process.

CXR ___
Successful removal of a right chest tunneled line.
 
Brief Hospital Course:
ASSESSMENT/PLAN: 
___ yo M w/relapsed AML s/p reinduction w/ MEC/lenalidomide per
protocol ___, now s/p allogeneic MRD stem cell transplant,
(day +62 on admission), non-neutropenic, admitted w/ 1 day of
fever, nasal congestion, and diarrhea.

TRANSITIONAL ISSUES

[ ] Osteltamavir course to complete ___
[ ] Bezlotoxumab infusion to be given on ___
[ ] Fidaxomicin to be continued at current dose until ID 
follow-up

ACUTE CONDITIONS
===================
#Fever
#C. difficile infection
#Diarrhea
Fevers and 1 day of diarrhea prior to admission. C. diff 
positive. Infectious work-up also notable for influenza A 
infection (see below); no growth on blood cultures at time of 
discharge. CXR clear. Patient remained hemodynamically stable. 
Consulted ID based on history of recurrent C. diff, recommended 
transition from PO vancomycin to fidaxomicin. Also recommended 
treatment with bezlotoxumab, with infusion scheduled for ___. 
Given patient's history of BMT and diarrhea, monitored for 
evidence of GVHD; patient had no RUQ pain or hyperbilirubinemia, 
stool output improving prior to discharge. Fidaxomicin to be 
continued at current dose post-discharge until ID follow-up, 
with plan for likely prolonged taper.

#Influenza A
2 days of fatigue, upper respiratory symptoms prior to 
admission,
fever to 101.8 on ___. Influenza A positive. Started Tamiflu on
___ with 5 day course to complete ___. Patient remained 
hemodynamically stable. C. diff positive as above. CXR clear, no 
evidence to date of superimposed bacterial respiratory 
infection. Urine legionella and strep negative. Expanded 
respiratory viral panel negative except for influenza A. Fungal 
studies pending at discharge.

#Relapsed AML s/p BMT: 
In remission since allogenic BMT, D+62 on admission. CBC on ___
with WBC 8.8, ANC 2.35, Hgb stable at 12.3, platelets stable at
97. Had been doing well post-transplant prior to recent 
symptoms.
Last bone marrow biopsy on ___ with no morphologic evidence of
AML, doing well post transplant until recent symptoms (see
above). While inpatient continued home tacrolimus 0.5MG BID, 
monitored tacrolimus levels. Ursodiol was discontinued given 
time since transplant. Continue outpatient prophylaxis regimen 
with acyclovir 400 TID, fluconazole 400 daily, 
trimethoprim-sulfamethoxazole 400-80 daily.

CHRONIC/RESOLVED CONDITIONS
============================
# Hx of C diff: 
Treated with PO vancomycin for C. diff infection in ___. 
Not
on prophylaxis as outpatient. Recurrent C. difficile infections 
managed as above.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. LORazepam 0.5 mg PO DAILY:PRN anxiety 
3. Fluconazole 400 mg PO Q24H 
4. FoLIC Acid 1 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
7. Ursodiol 300 mg PO BID 
8. Vitamin D 1000 UNIT PO DAILY 
9. Tacrolimus 0.5 mg PO QPM 
10. Tacrolimus 0.5 mg PO QAM 
11. Magnesium Oxide 800 mg PO TID 

 
Discharge Medications:
1.  Fidaxomicin 200 mg PO BID 
RX *fidaxomicin [Dificid] 200 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0 
2.  OSELTAMivir 75 mg PO BID 
RX *oseltamivir 75 mg 1 capsule(s) by mouth twice a day Disp #*3 
Capsule Refills:*0 
3.  Acyclovir 400 mg PO Q8H  
4.  Fluconazole 400 mg PO Q24H  
5.  FoLIC Acid 1 mg PO DAILY  
6.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
7.  Magnesium Oxide 800 mg PO TID  
8.  Multivitamins 1 TAB PO DAILY  
9.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
10.  Tacrolimus 0.5 mg PO QPM  
11.  Tacrolimus 0.5 mg PO QAM  
12.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Recurrent C. difficile Infection
Influenza A

SECONDARY DIAGNOSES
Acute Myeloid Leukemia
History of Bone Marrow Transplant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a privilege caring of you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted for fever, fatigue, and diarrhea

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You tested positive for influenza A and were started on 
oseltamivir (Tamiflu)
- You tested positive for C. difficile. You were evaluated by 
the infectious disease specialists, who recommended treatment 
with fidaxomicin based on your history of recurrent C. 
difficile. They also recommended an additional treatment, 
bezlotoxumab, which you will receive after discharge.
- Your symptoms improved and you were well enough to go home.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take your oseltamivir until the course is 
completed on ___
- Continue to take fidaxomicin until you
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best.

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___